US04668688
Preparation of 1-[bis(hydroxymethyl)-methyl]-2-methyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
To 0.0125 mole (3.33 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline 15 ml of a 37% aqueous formaldehyde solution and 15 ml of 99% formic acid are added. The reaction mixture is then kept at 100° C. for 10 hours. After cooling 50 ml of a 15% aqueous hydrochloric acid solution are added to the reaction mixture, which is then evaporated under reduced pressure. After thoroughly dehydrating the reaction mixture it is triturated with a small amount of acetone to yield the aimed compound with a melting point of 199° to 201° C. (ethanol/ether).

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.0125 mole, 15 ml, 3.33 g | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 1-[bis(hydroxymethyl)-methyl]-2-methyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Yield: 50% | Cl.OCC(C1N(CCC2=CC(=C(C=C12)OC)OC)C)CO | InChI=1S/C15H23NO4.ClH/c1-16-5-4-10-6-13(19-2)14(20-3)7-12(10)15(16)11(8-17)9-18;/h6-7,11,15,17-18H,4-5,8-9H2,1-3H3;1H
